US07244542B2
18 g of 6-(1-Ethoxy ethoxy)-2-vinylnaphthalene (0.0743 mol) was dissolved in 80 mL of ethanol. To this was added 1.6 g of pyridinium p-toluenesulfonate (0.0064 mol). The reaction mixture was stirred at 50° C. After 3 h, TLC analysis (silica, CH2Cl2) indicated that the reaction was over. The reaction mixture was cooled down to room temperature and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, CH2Cl2) to yield 11.15 g of pure 6-hydroxy-2-vinylnaphthalene (62%).

reactant | 6-(1-Ethoxy ethoxy)-2-vinylnaphthalene | 0.0743 mol, 18 g | C(C)OC(C)OC=1C=C2C=CC(=CC2=CC1)C=C | C16H18O2
reactant | pyridinium p-toluenesulfonate | 0.0064 mol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 6-hydroxy-2-vinylnaphthalene | 11.15 g, 62% | OC=1C=C2C=CC(=CC2=CC1)C=C | C12H10O
